### PR TITLE
Cleanup TPE helper lemmas

### PR DESCRIPTION
**Pull request by john-h-kastner-aws**
Move some existing TPE helper lemmas around

### CODE REVIEW

File: cedar-lean/Cedar/Thm/Data/Control.lean [hunk 1]
```diff
@@ -150,3 +147,53 @@ public theorem do_error_to_option {res : Except ε α} {e : ε} :
...
+
+public theorem to_option_distr_map {ε α β} {x : Except ε α} {f : α → β} :
+  (x.map f).toOption = x.toOption.map f
+:= by
+  cases x <;>
+    simp [Except.toOption, Except.map]
+
+public theorem to_option_distr_fmap {ε α β} {x : Except ε α} {f : α → β} :
+  (f <$> x).toOption = f <$> x.toOption
+:= by
```
Comment (cdisselkoen) [inline cedar-lean/Cedar/Thm/Data/Control.lean:199]: These two maybe could get `@[simp]`

**Review by cdisselkoen — APPROVED** [review]

File: cedar-lean/Cedar/Thm/Data/Control.lean [hunk 2]
```diff
@@ -150,3 +147,53 @@ public theorem do_error_to_option {res : Except ε α} {e : ε} :
   (do let (_ : α) ← res ; (.error e : Except ε α)).toOption = .none
 := by
   cases res <;> simp [Except.toOption]
+
+public theorem do_to_option_none {ε α β} {res : Except ε α} {f : α → Except ε β} :
+  res.toOption = none → (do let x ← res; f x).toOption = none
```
Comment (victornicolet) [inline cedar-lean/Cedar/Thm/Data/Control.lean:152]: nit: should those have `toOption` instead of `to_option`?

**Review by victornicolet — APPROVED** [review]

File: cedar-lean/Cedar/Thm/Data/Control.lean (hunk 2 above)
Comment (john-h-kastner-aws) [reply cedar-lean/Cedar/Thm/Data/Control.lean:152]: we're slightly inconsistent on this. I think generally yes, but existing theorems in this file use `to_option`

**Review by victornicolet — APPROVED** [review]
